US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2,5-difluorobenzoyl chloride, there is obtained ethyl N-(2,5-difluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 406 (4), 377 (18), 194 (100), 141 (49);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
product | ethyl N-(2,5-difluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC1=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C(C=C1)F | C24H20F2N2O2
